US08703810B2
Step 3: 1-(2,5-Dimethoxyphenyl)-2-(3-methoxy-4-(trifluoromethyl)phenyl)ethanone
To a solution of methyl 3-(2,5-dimethoxyphenyl)-2-(3-methoxy-4-(trifluoromethyl)phenyl)-3-oxopropanoate (30.1 g, 73 mmol) in EtOH (400 mL), concentrated HCl (100 mL) was added. The reaction mixture was heated at 130° C. for 3 h, cooled to room temperature, and concentrated. The residue was dissolved in dichloromethane (150 mL) and washed with brine (3×100 mL). The organic layer was dried (Na2SO4), concentrated and purified by silica gel column chromatography (1:10 EtOAc/petroleum ether) to afford the title compound (27.7 g). 1H NMR (DMSO-d6): δ 7.48 (d, 1H), 7.26-7.25 (m, 1H), 7.07-7.03 (m, 1H), 6.93-6.84 (m, 3H), 4.33 (s, 2H), 3.90 (s, 3H), 3.87 (s, 3H), 3.77 (s, 3H).

reactant | methyl 3-(2,5-dimethoxyphenyl)-2-(3-methoxy-4-(trifluoromethyl)phenyl)-3-oxopropanoate | 73 mmol, 30.1 g | COC1=C(C=C(C=C1)OC)C(C(C(=O)OC)C1=CC(=C(C=C1)C(F)(F)F)OC)=O | C20H19F3O6
solvent | EtOH | 400 mL | CCO | C2H6O
solvent | HCl | 100 mL | Cl | ClH
product | 1-(2,5-Dimethoxyphenyl)-2-(3-methoxy-4-(trifluoromethyl)phenyl)ethanone | 27.7 g | COC1=C(C=C(C=C1)OC)C(CC1=CC(=C(C=C1)C(F)(F)F)OC)=O | C18H17F3O4
